US07060827B2
In a manner similar to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 6-amino-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one were reacted to yield 2-chloro-5-fluoro-N4-[2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one-6-yl]-4-pyrimidineamine. 1H NMR (DMSO-d6): δ 4.63 (s, 2H), 7.34 (d, J=8.7 Hz, 1H), 7.44 (d, J=8.4 Hz, 1H), 8.33 (d, J=3.3 Hz, 1H), 10.14 (s, 1H, NH), 11.19 (s, 1H, NH); 19F NMR (282 MHz, DMSO-d6): δ −152.35; LCMS: ret. time: 26.74 min.; purity: 85.90%; MS (m/e): 296.13 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 6-amino-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | NC=1C=CC=2OCC(NC2N1)=O | C7H7N3O2
product | 2-chloro-5-fluoro-N4-[2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one-6-yl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C=CC=2OCC(NC2N1)=O)F | C11H7ClFN5O2
